US05116839
3-(2,3-Epoxypropoxy)-5-phenylisoxazole
To a solution of 10.00 g of 3-hydroxy-5-phenylisoxazole dissolved in hexamethylphosphoroamide (50 ml) were added 10.28 g of anhydrous potassium carbonate and 6.89 g of epichlorohydrin, and the mixture was stirred at room temperature for 24 hours. After insoluble materials in the reaction mixture were removed by filtration, the filtrate was diluted with ethyl acetate (200 ml) followed by washing with an aqueous 10% sodium chloride solution (200 ml×2). After the organic layer was dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was freed from the solvent by distillation under reduced pressure. The residue was purified by column chromatography through silica gel (developing solvent: a 4:1 mixture of cyclohexane and ethyl acetate) to afford 11.00 g (82.0%) of the title compound with melting point 98° to 99° C. as colorless needles.

reactant | 3-hydroxy-5-phenylisoxazole | 10.00 g | OC1=NOC(=C1)C1=CC=CC=C1 | C9H7NO2
reactant | potassium carbonate | 10.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 6.89 g | C(Cl)C1CO1 | C3H5ClO
product | 3-(2,3-Epoxypropoxy)-5-phenylisoxazole | 11.00 g, 82.0% | O1C(COC2=NOC(=C2)C2=CC=CC=C2)C1 | C12H11NO3
